US08877801B2
To a 30 mL screw cap vial, (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)-N-((tetrahydro-2H-pyran-2-yl)oxy)acrylamide (53 mg, 0.099 mmol) was dissolved in DCM (1 mL). The vial was charged with BBr3 (1.0 M in hexanes, 0.298 mL, 0.298 mmol) and the reaction mixture was stirred for 1 h at room temperature. The reaction mixture was quenched with 4 mL MeOH and stirred for 10 min. The mixture was concentrated onto silica gel and the crude material was purified by reverse phase HPLC (acidic condition, 0.1% TFA in 30-100% CH3CN/H2O) to afford (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-hydroxybenzo[b]thiophen-3-yl)oxy)phenyl)-N-hydroxyacrylamide (16 mg, 0.037 mmol, 37% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=2.25 (s, 3H,) 6.19 (d, J=16.17 Hz, 1H), 6.66-6.84 (m, 4H), 6.88 (dd, J=9.85, 2.78 Hz, 1H), 7.06-7.26 (m, 3H), 7.26-7.45 (m, 3H). LC/MS (m/z, MH+): 436.1.

reactant | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)-N-((tetrahydro-2H-pyran-2-yl)oxy)acrylamide | 0.099 mmol, 53 mg | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)NOC2OCCCC2)C | C30H28FNO5S
reactant | BBr3 | 0.298 mmol, 1.0 M, 0.298 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-hydroxybenzo[b]thiophen-3-yl)oxy)phenyl)-N-hydroxyacrylamide | 0.037 mmol, 16 mg, 37% yield | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)OC2=CC=C(C=C2)/C=C/C(=O)NO)C | C24H18FNO4S
